US04359460
A 5.13 g portion of anhydrous 6-O-α-D-galactopyranosyl-α-D-glucopyranose is suspended in 50 ml of pyridine and 5.0 g of anhydrous calcium sulfate is added. This mixture is heated at 90° C. for 30 minutes, then 4.6 g of trityl chloride is added and heating and stirring are continued for 2 hours. The solution is cooled to room temperature, 10 ml of acetic anhydride is added and the mixture is allowed to stand overnight. The mixture is poured into crushed ice and the solid is filtered, washed with water and dried, giving 10 g of 6-O-(6-O-trityl-α-D-galactopyranosyl)-α-D-glucopyranose, heptaacetate as a colorless granular solid.

reactant | 6-O-α-D-galactopyranosyl-α-D-glucopyranose | [C@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](O)O1)O)O)O | C12H22O11
reactant | calcium sulfate | 5.0 g | S(=O)(=O)([O-])[O-].[Ca+2]
reactant | trityl chloride | 4.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-O-(6-O-trityl-α-D-galactopyranosyl)-α-D-glucopyranose | 10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](O)O1)O)O)O)O)O)O | C31H36O11
